US09399640B2
Step 1. 4-(2,4-difluorophenoxy)-1-methyl-5-{6-methyl-1-[(4-methylphenyl)sulfonyl]-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl}-1,3-dihydro-2H-benzimidazol-2-one
A solution of 4-[3-amino-2-(2,4-difluorophenoxy)-4-(methylamino)phenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one (98.0 mg, 0.178 mmol) in tetrahydrofuran (1.0 mL) was treated with N,N-carbonyldiimidazole (57.7 mg, 0.356 mmol) and stirred at 50° C. for 1 h. The reaction mixture was purified via preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water 0.1% ammonium hydroxide, at flow rate of 60 mL/min) to give the desired product (77 mg, 75%). LCMS calculated for C29H23F2N4O5S (M+H)+: m/z=577.1. found: 577.1.

reactant | 4-[3-amino-2-(2,4-difluorophenoxy)-4-(methylamino)phenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 0.178 mmol, 98.0 mg | NC=1C(=C(C=CC1NC)C=1C2=C(C(N(C1)C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)OC2=C(C=C(C=C2)F)F | C28H24F2N4O4S
reactant | N,N-carbonyldiimidazole | 0.356 mmol, 57.7 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
product | 4-(2,4-difluorophenoxy)-1-methyl-5-{6-methyl-1-[(4-methylphenyl)sulfonyl]-7-oxo-6,7-dihydro-1H-pyrrolo[2,3-c]pyridin-4-yl}-1,3-dihydro-2H-benzimidazol-2-one | 77 mg, 75% | FC1=C(OC2=C(C=CC=3N(C(NC32)=O)C)C=3C2=C(C(N(C3)C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)C=CC(=C1)F | C29H22F2N4O5S
